US07279200B2
A solution of 15 g of benzoylformic acid (glyoxalic acid), 7.95 g of trimethylolpropane monoallyl ether and 1.11 g of 4-dimethylaminopyridine in 750 ml of methylene chloride is cooled to 0° C. A solution of 18.8 g of N,N′-dicyclohexylcarbodiimide in 80 ml of methylene chloride is added dropwise over the course of 30 minutes. The mixture is warmed to room temperature and stirred overnight. Filtration, evaporation of the solvent and chromatography (eluent 6:1 methylene chloridethyl acetate) give 2-allyloxymethyl-2-(2-oxo-2-phenylacetoxymethyl)butyl oxophenylacetate (9.43 g, 47%) as a yellow liquid.

reactant | benzoylformic acid | 15 g | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | trimethylolpropane monoallyl ether | 7.95 g | CCC(CO)(CO)COCC=C | C9H18O3
reactant | N,N′-dicyclohexylcarbodiimide | 18.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1.11 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-allyloxymethyl-2-(2-oxo-2-phenylacetoxymethyl)butyl oxophenylacetate | 9.43 g, 47% | O=C(C(=O)OCC(CC)(COC(C(C1=CC=CC=C1)=O)=O)COCC=C)C1=CC=CC=C1 | C25H26O7
